US07994163B2
Under a nitrogen atmosphere, add 6-aminomethyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.6 mmol), 4-bromo-N-cycloheptyl-benzamide (520 mg, 1.8 mmol), palladium(II) acetate (35 mg, 0.16 mmol), BINAP (150 mg, 0.24 mmol) and sodium-t-butoxide (460 mg, 4.8 mmol) to toluene (10 mL). Heat the mixture at 70° C. for 1 h. Cool the mixture to room temperature and dilute with water and DCM. Separate the layers and extract the aqueous phase with DCM. Wash the combined organic extracts with water and brine. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 17:1 gradient) to obtain 3-tert-butoxycarbonyl-7-chloro-6-[(4-cycloheptylcarbamoyl-phenylamino)-methyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (460 mg, 54%). MS (APCI+) m/z: 526 (M+H)+.

reactant | 6-aminomethyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.6 mmol, 500 mg | NCC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C16H23ClN2O2
reactant | 4-bromo-N-cycloheptyl-benzamide | 1.8 mmol, 520 mg | BrC1=CC=C(C(=O)NC2CCCCCC2)C=C1 | C14H18BrNO
reactant | BINAP | 0.24 mmol, 150 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium-t-butoxide | 4.8 mmol, 460 mg | CC(C)([O-])C.[Na+]
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 0.16 mmol, 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-tert-butoxycarbonyl-7-chloro-6-[(4-cycloheptylcarbamoyl-phenylamino)-methyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 460 mg, 54% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CNC2=CC=C(C=C2)C(NC2CCCCCC2)=O | C30H40ClN3O3
